US08309546B2
(2S)-1-{(2S)-4-[2-(2-Aminopyrimidin-5-yl)-9-isobutyl-6-morpholin-4-yl-9H-purin-8-yl]-2-methylpiperazin-1-yl}-1-oxopropan-2-ol
L-Lactic acid (29.6 μl, 0.34 mmol), 1-hydroxybenzotriazole monohydrate (43.0 mg, 0.28 mmol), 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride (80.8 mg, 0.42 mmol), and triethylamine (58.8 μl, 0.42 mmol) were added to an N,N-dimethylformamide solution (3.0 ml) of 5-{9-isobutyl-8-[(3S)-3-methylpiperazin-1-yl]-6-morpholin-4-yl-9H-purin-2-yl}pyrimidin-2-amine (127.2 mg, 0.28 mmol) at room temperature. The resulting mixture was stirred for 1 day followed by the addition of L-lactic acid (29.6 μl, 0.34 mmol), 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride (80.8 mg, 0.42 mmol), triethylamine (58.8 μl, 0.42 mmol), and methylene chloride (3.0 ml). The resulting mixture was stirred for 1 day and then the reaction mixture was poured into methylene chloride-methanol (10:1), washed with saturated aqueous sodium hydrogen carbonate solution, and dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure and the resulting residue was purified by preparative thin layer silica gel chromatography (methylene chloride:methanol=10:1) to give the title compound (77.9 mg, 53%) as a pale yellow solid.

reactant | L-Lactic acid | 0.34 mmol, 29.6 μl | C([C@@H](O)C)(=O)O | C3H6O3
reactant | 1-hydroxybenzotriazole monohydrate | 0.28 mmol, 43.0 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 0.42 mmol, 80.8 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | triethylamine | 0.42 mmol, 58.8 μl | C(C)N(CC)CC | C6H15N
reactant | 5-{9-isobutyl-8-[(3S)-3-methylpiperazin-1-yl]-6-morpholin-4-yl-9H-purin-2-yl}pyrimidin-2-amine | 0.28 mmol, 127.2 mg | C(C(C)C)N1C2=NC(=NC(=C2N=C1N1C[C@@H](NCC1)C)N1CCOCC1)C=1C=NC(=NC1)N | C22H32N10O
reactant | L-lactic acid | 0.34 mmol, 29.6 μl | C([C@@H](O)C)(=O)O | C3H6O3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 0.42 mmol, 80.8 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | triethylamine | 0.42 mmol, 58.8 μl | C(C)N(CC)CC | C6H15N
solvent | methylene chloride methanol | C(Cl)Cl.CO
solvent | methylene chloride | 3.0 ml | C(Cl)Cl | CH2Cl2
solvent | N,N-dimethylformamide | 3.0 ml | CN(C=O)C | C3H7NO
product | (2S)-1-{(2S)-4-[2-(2-Aminopyrimidin-5-yl)-9-isobutyl-6-morpholin-4-yl-9H-purin-8-yl]-2-methylpiperazin-1-yl}-1-oxopropan-2-ol | 77.9 mg, 53% | NC1=NC=C(C=N1)C1=NC(=C2N=C(N(C2=N1)CC(C)C)N1C[C@@H](N(CC1)C([C@H](C)O)=O)C)N1CCOCC1 | C25H36N10O3
